US07495007B2
In a manner similar to the method described in example 4d, racemic (2′S,3S,4′R)-6-chloro-2′-(4-chlorophenyl)-4′-cyclohexyl-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid ethyl ester (0.4 g, 0.78 mmol) was reacted with NaOH (56 mg, 1.4 mmol) in methanol to give racemic (2′S,3S,4′R)-6-chloro-2′-(4-chlorophenyl)-4′-cyclohexylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as a white solid (Yield 0.15 g, 44%).

reactant | racemic (2′S,3S,4′R)-6-chloro-2′-(4-chlorophenyl)-4′-cyclohexyl-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid ethyl ester | 0.78 mmol, 0.4 g | C(C)OC(=O)N1C(C2(C(NC(CC2C2CCCCC2)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C12)Cl)=O | C27H28Cl2N2O4
reactant | NaOH | 1.4 mmol, 56 mg | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | racemic (2′S,3S,4′R)-6-chloro-2′-(4-chlorophenyl)-4′-cyclohexylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield 0.15 g, 44% | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1CCCCC1)=O)C1=CC=C(C=C1)Cl)=O | C24H24Cl2N2O2
